US03965100
2,3-Dihydro-5-methylcyclopenta[d]pyrido[1,2-a]pyrimidin-10(1H)-one
A mixture of 10.8 g of 2-amino-3-picoline, 31.2 g of ethyl cyclopentanone-2-carboxylate, and 250 ml of ethylene glycol monomethyl ether is stirred and heated under reflux for 40 hours. The solution is concentrated as far as possible on a rotary evaporator. The residual oil crystallizes and is filtered with suction to give 14.15 g of air-dried solid. This is recrystallized from 425 ml of cyclohexane to give 11.3 g of product, after drying at 78°. The melting point is 100°-102°.

reactant | 2-amino-3-picoline | 10.8 g | NC1=NC=CC=C1C | C6H8N2
reactant | ethyl cyclopentanone-2-carboxylate | 31.2 g | CCOC(=O)C1CCCC1=O | C8H12O3
solvent | ethylene glycol monomethyl ether | 250 ml | COCCO | C3H8O2
product | 2,3-Dihydro-5-methylcyclopenta[d]pyrido[1,2-a]pyrimidin-10(1H)-one | 14.15 g | CC1=CC=CN2C1=NC1=C(C2=O)CCC1 | C12H12N2O
